US08703768B2
Step 2: 6-Chloro-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid ethyl ester
A suspension of 3-amino-6-chloro-pyridine-2-carboxylic acid ethyl ester (200 mg, 1.0 mmol), 5-bromopyrimidine (444 mg, 2.8 mmol), potassium carbonate (496 mg, 3.6 mmol) and water (76 μl, 4.4 mmol) in o-xylene was evacuated and vented with argon. Palladium(II) acetate (27 mg, 0.12 mmol) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (xantphos; 87 mg, 0.15 mmol) were added under argon and the reaction mixture was stirred at 140° C. for 60 h. After cooling down to ambient temperature, the reaction mixture was diluted with dichloromethane and the product was obtained after purification by silica gel chromatography using a heptane/ethyl acetate gradient as light yellow solid (98 mg, 35%).

reactant | 3-amino-6-chloro-pyridine-2-carboxylic acid ethyl ester | 1.0 mmol, 200 mg | C(C)OC(=O)C1=NC(=CC=C1N)Cl | C8H9ClN2O2
reactant | 5-bromopyrimidine | 2.8 mmol, 444 mg | BrC=1C=NC=NC1 | C4H3BrN2
reactant | potassium carbonate | 3.6 mmol, 496 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 4.4 mmol, 76 μl | O | H2O
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.15 mmol, 87 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | o-xylene | CC=1C=CC=CC1C | C8H10
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Palladium(II) acetate | 0.12 mmol, 27 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-Chloro-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)Cl | C12H11ClN4O2
